Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abd Pain, Abnormal Labs, Tachycardia
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Ms. ___ is a ___ year-old female with past medical history
significant for autoimmune hepatitis s/p liver transplant ___,
___ on tacrolimus, DM2 on insulin, DVT, and ulcerative 
colitis
on mesalamine presenting to ___ with acute onset RUQ pain
and vomiting. The patient was in her usual state of health until
the day of admission. The patient works at a daycare and was
playing outside when she presented with acute onset RUQ and R
flank pain. After eating lunch, she subsequently had 3 episodes
of emesis. She denied any diarrhea, hematochezia, melena, 
dysuria
or hematuria. 

She has been taking her antirejection medications. No fevers or
chills. No chest pain or shortness of breath. No cough.

GI consult
___ years old female PMH of liver transplant ___ years ago due to
AIH? on TAC/prednisone, presenting with RUQ. In the ___ hypoxic
hypotensive (received MO in OSH) eleavted WBC neturophilia,
elevated ALT AST ALKP ___ times upper limit of normal. US and
chest x ray unrevelaing. Team in ___ noted RLQ rales. 

In the ___, 
- Initial vitals: 
T 99.4 HR 127 BP 129/36 RR 16 SPO2 94% RA  

- Exam notable for: 
No ascites on U/S
 
- Labs notable for:  
CBC: WBC 14.3 Hb 13.7 Plt 300
BMP: K 2.9 BUN/Cr ___ Mg: 1.0 P: 2.3
K: 2.7
Lactate: 3.0 -> 1.4
LFTS: ALT 252 AST 417 AP 336 T bili 3.4 Alb 3.0
INR: 2.5

FluAPCR: Neg
FluBPCR: Neg

Blood Cx X2: Pending

- Imaging was notable for: 
+CXR:
No acute cardiopulmonary process. 

+RUQUS: 
Patent hepatic vasculature with appropriate waveforms. Left and
right hepatic artery resistive indices are at the lower limit of
normal (0.46-0.54), however this result should be interpreted
with caution given the limited nature of the exam.

- Patient was given:  
3L NS
IV Piperacillin-Tazobactam  
PO Potassium Chloride 20 mEq 
PO Potassium Chloride 40 mEq 
IV Vancomycin  
IV MethylPREDNISolone Sodium Succ 100 mg 

-Vitals on Transfer: 
HR 126 BP 79/56 RR 26 SPO2 96% 3L NC 
 
Upon arrival to the ICU, patient confirms above history. 
 
Past Medical History:
AIH s/p Liver Transplant ___ at ___
Ulcerative Colitis
DM2
Hypertension
 
Social History:
___
Family History:
No family history of liver disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp 97.9F BP 129/77 HR 112 95% on RA
GENERAL: NAD, resting comfortably
HEENT: PERRLA, EOMI, MMM, OP clear
CARDIAC: tachycardic, no murmurs, rubs, gallops
PULMONARY: CTAB, no wheezes, rales, rhonchi 
ABDOMEN: soft, NTND, +BS
EXTREMITIES: no ___ edema
SKIN: no rashes
NEURO: AAOx3, no focal deficits

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 729)
    Temp: 98 (Tm 98.0), BP: 137/88 (107-141/76-95), HR: 94
(84-109), RR: 18 (___), O2 sat: 92% (92-95), O2 delivery: RA,
Wt: 210.4 lb/95.44 kg       
General: Well developed, well nourished, alert and cooperative,
and appears to be in no acute distress.
HEENT: Normocephalic, atraumatic. PERRLA EOMI. 
Neck: Neck supple, non-tender without lymphadenopathy, masses or
thyromegaly.
Cardiac: Tachycardic. Normal S1 and S2. No S3, S4 or murmurs.
Rhythm is regular.
Pulmonary: Clear to auscultation without rales, rhonchi, 
wheezing
or diminished breath sounds.
Abdomen: Obese. Normoactive bowel sounds.  Soft, nondistended,
nontender.  No guarding or rebound.  No masses. Occasional
purpura. 
Extremities: ROM intact in spine and extremities. No joint
erythema or tenderness. Muscle bulk and tone appropriate for age
and habitus. There is 1+ edema of b/l lower extremities L>R. 
Neuro: Alert and oriented x3. No gross focal deficits. 

 
Pertinent Results:
ADMISSION LABS:
================
___ 08:20PM BLOOD WBC-14.3* RBC-5.07 Hgb-13.7 Hct-42.8 
MCV-84 MCH-27.0 MCHC-32.0 RDW-14.2 RDWSD-42.3 Plt ___
___ 08:20PM BLOOD Neuts-93.0* Lymphs-3.6* Monos-2.7* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-13.29* AbsLymp-0.52* 
AbsMono-0.39 AbsEos-0.00* AbsBaso-0.04
___ 08:20PM BLOOD Glucose-276* UreaN-12 Creat-0.7 Na-143 
K-2.9* Cl-105 HCO3-21* AnGap-17
___ 08:20PM BLOOD ALT-252* AST-417* AlkPhos-336* 
TotBili-3.4*
___ 08:20PM BLOOD Albumin-3.0* Calcium-8.8 Phos-2.3* 
Mg-1.0*

PERTINENT LABS/MICRO:
=====================
___ 05:54AM BLOOD WBC-19.1* RBC-4.73 Hgb-12.9 Hct-40.5 
MCV-86 MCH-27.3 MCHC-31.9* RDW-14.3 RDWSD-43.8 Plt ___
___ 08:20PM BLOOD ALT-252* AST-417* AlkPhos-336* 
TotBili-3.4*
___ 05:54AM BLOOD ALT-388* AST-388* AlkPhos-305* 
TotBili-5.2* DirBili-5.1* IndBili-0.1
___ 10:53AM BLOOD IgG-794 IgA-664* IgM-88
___ 10:53AM BLOOD HIV Ab-NEG
___ 10:53AM BLOOD HCV Ab-NEG

DISCHARGE LABS:
================
___ 05:23AM BLOOD WBC-6.7 RBC-4.48 Hgb-12.2 Hct-38.9 MCV-87 
MCH-27.2 MCHC-31.4* RDW-14.6 RDWSD-45.2 Plt ___
___ 05:25AM BLOOD Neuts-50.9 ___ Monos-11.7 Eos-1.6 
Baso-1.0 Im ___ AbsNeut-3.14 AbsLymp-2.03 AbsMono-0.72 
AbsEos-0.10 AbsBaso-0.06
___ 05:23AM BLOOD ___ PTT-26.1 ___
___ 05:23AM BLOOD Glucose-152* UreaN-6 Creat-0.5 Na-143 
K-3.4* Cl-104 HCO3-24 AnGap-15
___ 05:23AM BLOOD ALT-33 AST-25 AlkPhos-287* TotBili-0.6
___ 05:23AM BLOOD Albumin-3.0* Calcium-8.8 Phos-4.1 Mg-1.4*
___ 05:23AM BLOOD tacroFK-7.0

PERTINENT IMAGING:
==================
___ CXR:
No acute cardiopulmonary process.

___ RUQ Ultrasound w/ doppler:
Patent hepatic vasculature with appropriate waveforms.  Left and 
right hepatic artery resistive indices are at the lower limit of 
normal (0.46-0.54), however this result should be interpreted 
with caution given the limited nature of the exam. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Ms. ___ is a ___ year-old female with past medical history 
significant for autoimmune hepatitis s/p liver transplant ___, 
___ on tacrolimus and prednisone, recurrent DVTs on warfarin, 
and ulcerative colitis on mesalamine who presented to ___ 
with acute onset RUQ and epigastric pain and nonbloody vomiting 
on ___ found to have GPC bacteremia and imaging concerning for 
cholangitis. She underwent ERCP which showed a right 
intrahepatic stricture with upstream biliary scalloping and 
atypical cells on brushings. She received IV ceftriaxone/flagyl 
(D1 = ___, which were continued at discharge. 

ACUTE ISSUES ADDRESSED:
======================
#Cholangitis 
#Transaminitis
#Strep anginosus blood stream infection
MRCP concerning for cholangitis and patient now with 2 blood 
culture bottles positive for GPCs now speciated as strep 
angiosus (___ group). Likely cholangitis with bacterial 
translocation. Clinically stabilized with antibiotics. She 
underwent ERCP ___ which showed R intrahepatic stricture with 
upstream biliary scalloping suggestive of cholangiopathy. Ddx 
includes ischemic stricture with secondary cholangiopathy, PCS 
and malignancy. Hepatitis serologies obtained, she is hep A and 
B non-immune and should have vaccinations, EBV negative and CMV 
VL non detectable. ___, AMA, ___ obtained and all negative. 
Cytology of brushings showed atypical cells, possibly consistent 
with PCS infection vs malignancy. She will require repeat 
brushings with her next ERCP 1 month after the first one. IgG 
subclasses obtained and IgG subclass 2 low. ___ consulted for 
drainage of bilomas seen on MRCP and deemed no intervention 
necessary at this time s/p ERCP. She was continued on 
ceftriaxone/flagyl (___), with plan for duration likely ___ 
weeks to be determined by ___ clinic follow up. She will 
require repeat ERCP in 4 weeks from ___.

#Autoimmune hepatitis s/p liver transplant ___: 
Patient with history of AIH s/p liver transplant in ___ at 
___. Tacro levels have been elevated to >15. The dose was 
downtitrated given goal trough this far out from transplant is 
usually ___, however further management deferred to outpatient 
hepatologist. She additionally has continued on budesonide for 
years, which was discontinued as it was unclear if patient had 
ongoing UC. She has also been on prednisone 10mg daily (recently 
downtitrated to 5mg daily in setting of recent dx DM). For 
immune suppression, lowered tacro to 1 mg BID from 1.5 mg BID at 
home given high levels. She was continued on pred 5mg daily. 
Contacted her transplant clinic (Dr. ___, at ___ 
___. Follow up appointment was made and informed 
patient of need for repeat ERCP. If ___ unable to follow up 
she will need f/u ERCP at ___ in four weeks. Transitionally, 
she should get repeat hep B vaccination (has had difficulty 
serocoverting in past); she should also get the hep A vaccine. 

#Tachycardia
Sinus tachycardia. Initially concerning for sepsis though 
patient is well appearing and adequately fluid resuscitated. 
Also component of rebound tachycardia from holding home 
metoprolol. She was given IVF and resumed on home metoprolol. 

#Electrolyte Abnormalities 
#Hypomagnesemia
#Hypokalemia
#Hypophosphatemia
Mg was 1.0 on arrival. Continued to waste Mg and K throughout. 
Hypomagnesemia is common in patients who have received solid 
organ transplants on tacrolimus Her 24 h urine collection was 
difficult to interpret in setting of repletion, but per renal 
likely represents increased urinary wasting in setting of 
hypokalemia and hypomagnesemia. Omeprazole may also play role in 
electrolyte disturbance, now switched to ranitidine. She is 
being discharged on BID magnesium supplementation and daily 
potassium supplementation. 

#DM2: Diagnosed 1.5 weeks prior to admission with ___, no hx of 
previous prediabetes. A1c 12%. She was restart glargine given 
hyperglycemia, recent DKA and 5 units Humalog TID w/ meals with 
insulin sliding scale. 

CHRONIC ISSUES:
================
#HTN: 
Once stabilized, resumed home amlodipine 10mg and home 
metoprolol tartrate 75mg BID.

#Ulcerative Colitis: Resumed home Mesalamine 800mg TID. Held 
home budesonide given uncertainty of diagnosis.

#CAD: pravastatin 40mg daily 
#Recurrent DVT: resumed warfarin 72 hr s/p ERCP without a 
bridge. US study negative for DVT. 

TRANSITIONAL ISSUES:
=====================
#Cholangitis 
#Atypical brushings
Cytology brushings were abnormal from right intrahepatic biliary
branches: "Atypical ductal epithelial cells and bile pigment."
Differential includes ischemic stricture with secondary
cholangiopathy, PCS, and malignancy. 
[] Repeat ERCP 4 weeks from ___ to reassess/remove stent. 
Needs to be coordinated with home ___ 
___
[] Will need repeat biopsies on repeat ERCP to follow up 
atypical cells found on first set of brushings. Per Dr. ___, 
___ need
repeat biopsies of this area at next ERCP in ___. 

#Electrolyte disturbances
[] Monitor hypokalemia, hypomagnesemia, consider pursuing 
further workup outpatient.
[] Should follow up CMP one week of discharge while on repletion 
of K, Mg (please obtain on ___. 
[] Discharging on 800mg Magnesium Oxide BID and 20mEq K daily. 

#DVTs
[] INR to be followed up by PCP ___. MD). Pt 
has received 7.5mg of Warfarin for the last 4 days of her 
hospitalization. Last INR was 1.5.

#Diabetes:
[] Blood sugars should be closely monitored with titration of 
insulin as needed. 

#S/p liver transplant
[] Tacrolimus dose has been reduced to 1mg BID. Levels should be 
monitored closely and dosage adjusted as needed. Goal Tacro 
trough ___.

#Possible Ulcerative Colitis:
[] Budesonide for ulcerative colitis was stopped as patient 
already on significant immunosuppression with prednisone and 
tacro.
[] Patient should undergo colonoscopy as outpatient to determine 
activity of UC.
[] Patient should have repeat hepatitis B vaccine, hepatitis A 
vaccine.

#CODE STATUS: Full (confirmed) 
#CONTACT: ___ (sister) ___, HCP is mother
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Glargine 15 Units Breakfast
Humalog 5 Units Breakfast
Humalog 5 Units Lunch
Humalog 5 Units Dinner
2. amLODIPine 10 mg PO DAILY 
3. PredniSONE 5 mg PO DAILY 
4. Tacrolimus 1.5 mg PO Q12H 
5. Mesalamine ___ 800 mg PO TID 
6. Metoprolol Tartrate 75 mg PO BID 
7. Uceris (budesonide) 9 mg oral DAILY 
8. Warfarin 7.5 mg PO 5X/WEEK (___) 
9. Warfarin 10 mg PO 2X/WEEK (MO,FR) 
10. Pravastatin 40 mg PO QPM 
11. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV daily 
Disp #*30 Intravenous Bag Refills:*0 
2.  Magnesium Oxide 800 mg PO BID 
RX *magnesium oxide 400 mg 2 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*0 
4.  Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth every 12 hours 
Disp #*60 Tablet Refills:*0 
6.  Tacrolimus 1 mg PO Q12H 
RX *tacrolimus 1 mg 1 capsule(s) by mouth every 12 hours Disp 
#*60 Capsule Refills:*0 
7.  amLODIPine 10 mg PO DAILY  
8.  Glargine 15 Units Breakfast
Humalog 5 Units Breakfast
Humalog 5 Units Lunch
Humalog 5 Units Dinner 
9.  Mesalamine ___ 800 mg PO TID  
10.  Metoprolol Tartrate 75 mg PO BID  
11.  Pravastatin 40 mg PO QPM  
12.  PredniSONE 5 mg PO DAILY  
13.  Warfarin 7.5 mg PO 5X/WEEK (___)  
14.  Warfarin 10 mg PO 2X/WEEK (MO,FR)  
15. HELD- Uceris (budesonide) 9 mg oral DAILY  This medication 
was held. Do not restart Uceris until you see your 
gastroenterologist 
16.Outpatient Lab Work
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
CEFTRIAXONE: WEEKLY: CBC with differential, BUN, Cr, AST, ALT, 
Total Bili, ALK PHOS, CRP
ICD-9 Code: 276.9 (Electrolyte and fluid disorders)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Cholangitis
Blood infection
Autoimmune hepatitis s/p liver transplant

SECONDARY:
Hypokalemia
Hypomagnesemia
IDDM 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
abdominal pain and you were found to have cholangitis and a 
blood stream infection. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
- You were found to have an infection of your bile ducts called 
cholangitis. This infection was also in your bloodstream.
- You had a procedure to clear the infection in your bile ducts 
called an ERCP. 
- Your immunosuppression was found to be elevated and was 
adjusted. 
- Your insulin regimen was adjusted. 
- Your electrolyte levels were low and were repleted. 
- You improved and were ready to leave the hospital.  

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight increases by more 
than 3 pounds  
- Please maintain a low salt diet and monitor your fluid intake  

- Seek medical attention if you have new or concerning symptoms 
or you develop.

It was a pleasure participating in your care. We wish you the 
best!
 
 - Your ___ Care Team  

 
Followup Instructions:
___